US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-(2-hydroxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone
A 25 ml round bottom flask is charged 2-tert-butyl-4-chloro-5-(2-tert-butyldimethylsilyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3 (2H)-pyridazinone (0.5 g, 1.01 mmol) and to it is added 5 ml of 1% concd. HCl in ethanol. The solution is stirred for one hour after which it is poured in water and extracted with ethyl acetate. The ethyl acetate is removed using the rotary evaporator and subjected to flash chromatography using silica gel and ethyl acetate/hexanes mixture as the eluting medium.

reactant | 2-tert-butyl-4-chloro-5-(2-tert-butyldimethylsilyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3 (2H)-pyridazinone | 1.01 mmol, 0.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C26H41ClN2O3Si
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-tert-butyl-4-chloro-5-(2-hydroxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(CO)C1=CC=C(C=C1)C(C)(C)C | C20H27ClN2O3
